US08748374B2
(2R,6S,14aR,16aS,Z)-ethyl 2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate
To a solution of (2R,6S,14aR,16aS,Z)-ethyl 6-(5-methylisoxazole-3-carboxamido)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate (64.6 g solution, 15.5% w/w solution in THF, 10 g starting material) was added THF (34 mL). The solution was then cooled to 0° C. and a solution of 0.5M LiOH (33.8 mL) was added dropwise keeping the temperature below 5° C. After 1 hour, the reaction was diluted with dichloromethane (150 mL) and neutralized with 1N HCl (50 mL). The organic layer was extracted and washed with 5% NaHCO3 (50 mL) twice and once with a 5% aq. NaCl solution (50 mL). The dichloromethane layer was evaporated under reduced pressure and diluted with THF (41 g) to give a solution. Analysis by HPLC indicated a yield of 7.8 g of the title compound (100%).

reactant | (2R,6S,14aR,16aS,Z)-ethyl 6-(5-methylisoxazole-3-carboxamido)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 64.6 g | CC1=CC(=NO1)C(=O)N[C@H]1CCCCC\C=C/C2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC(C3=CC=C(C=C3)[N+](=O)[O-])=O)=O)(C2)C(=O)OCC | C32H37N5O10
reactant | THF | 34 mL | C1CCOC1 | C4H8O
reactant | LiOH | 0.5M, 33.8 mL | [Li+].[OH-]
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (2R,6S,14aR,16aS,Z)-ethyl 2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | yield of 7.8 g, 100% | O[C@@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/C3[C@](NC2=O)(C3)C(=O)OCC)NC(=O)C3=NOC(=C3)C)=O)C1 | C25H34N4O7
